US07601855B2
Step 5.1 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-8-methyl-chroman-4-one
Acetic acid 3-(3,4-dimethoxy-phenyl)-8-methyl-4-oxo-chroman-7-yl ester (1.1 g, 3.2 mmol) and imidazole (3.2 g, 47 mmol) were refluxed in EtOH (100 ml). The reaction was complete after 90 minutes and allowed to cool to room temperature before pouring into stirred H2O (800 ml). A fine white precipitate was filtered off and 1H NMR in d-CDCl3 indicated the solid was 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-8-methyl-chroman-4-one in >95% puity (0.31 g, 30%).

reactant | Acetic acid 3-(3,4-dimethoxy-phenyl)-8-methyl-4-oxo-chroman-7-yl ester | 3.2 mmol, 1.1 g | COC=1C=C(C=CC1OC)C1COC2=C(C(=CC=C2C1=O)OC(C)=O)C | C20H20O6
reactant | imidazole | 47 mmol, 3.2 g | N1C=NC=C1 | C3H4N2
reactant | H2O | 800 ml | O | H2O
solvent | EtOH | 100 ml | CCO | C2H6O
product | 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-8-methyl-chroman-4-one | COC=1C=C(C=CC1OC)C1COC2=C(C(=CC=C2C1=O)O)C | C18H18O5
